### PR TITLE
[Merged by Bors] - feat: the exponential of nilpotent Lie algebra derivatation is an automorphism

### PR DESCRIPTION
**Pull request by jano-wol**
---
This PR shows that the exponential of a nilpotent derivative is a Lie isomorphism.

This work is part of the framework:
https://github.com/orgs/leanprover-community/projects/17

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Derivation/Basic.lean [hunk 1]
```diff
@@ -381,4 +384,149 @@ protected lemma leibniz_lie (x : L) (D₁ D₂ : LieDerivation R L L) :
...
+variable {R L : Type*} [Field R] [CharZero R] [LieRing L] [LieAlgebra R L] (D : LieDerivation R L L)
+
+open Finset
+open scoped Nat
+
+/-- In characteristic zero, the exponential of a nilpotent derivation is a Lie algebra
+automorphism. -/
+noncomputable def exp_nilpotent_derivation (h : IsNilpotent D.toLinearMap) :
+  LieEquiv R L L := by
+  letI : LieAlgebra ℚ L := LieAlgebra.RestrictScalars.lieAlgebra ℚ R L
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Derivation/Basic.lean:398]: Because this is a definition, by using `LieAlgebra.RestrictScalars.lieAlgebra ℚ R L` you are creating a term which contains `LieAlgebra.RestrictScalars.lieAlgebra ℚ R L`. This is undesirable because it makes it more specific than it should be. For example any lemmas about this definition will have to refer to `LieAlgebra.RestrictScalars.lieAlgebra ℚ R L` since this is embedded in the term (you can actually see if you use `#print exp_nilpotent_derivation` and dig sufficiently deep).

To solve this we should generalise over the `ℚ`-Lie algebra structure by making it an input like this:
```suggestion
noncomputable def exp_nilpotent_derivation [LieAlgebra ℚ L] (h : IsNilpotent D.toLinearMap) :
    LieEquiv R L L := by
```

Implemention-wise this is now good, however I admit it is a slightly unsatisfactory mathematically since the `ℚ`-Lie algebra structure is uniquely-determined (i.e., propositionally, not definitionally). I propose that we just accept this, at least for now. For one thing it will only affect _statements_ that actually mention `exp_nilpotent_derivation`: any _proofs_ which use it internally can just conjure up the instance internally (e.g., using `LieAlgebra.RestrictScalars.lieAlgebra ℚ R L`).

The way to avoid the `[LieAlgebra ℚ L]` entirely would be what @jcommelin suggested on Zulip: use the junk-value pattern to extend `IsNilpotent.exp` to any ring by using `Ring.inverse` (if we did this we would then also write API to show that it equals the expected formula when there is actually an algebra structure over `ℚ`).

**Review by ocfnash — COMMENTED** [review]
Thanks for doing this: I'll have more time to do a thorough review tomorrow.

File: Mathlib/Algebra/Lie/Derivation/Basic.lean (hunk 1 above)
Comment (jano-wol) [reply Mathlib/Algebra/Lie/Derivation/Basic.lean:398]: Thank you for your comment. I checked the definition using
```
set_option pp.all true
#print exp_nilpotent_derivation
```
and I see that RestrictScalars appears in the printed output. 

What I don’t understand is how this actually causes a problem. The following definitions and statements compile just fine (even in another lean file like Derivation/Killing.lean):

```
section Call

variable (R L : Type*) [LieRing L] [Field R] [CharZero R] [LieAlgebra R L] (D : LieDerivation R L L)

noncomputable def def_call (h : IsNilpotent D.toLinearMap) : LieEquiv R L L := by
  exact exp_nilpotent_derivation D h

lemma lemma_call (h : IsNilpotent D.toLinearMap) : exp_nilpotent_derivation D h ≠ 1 := sorry

end Call
```

So I feel like I’m missing something important.

File: Mathlib/Algebra/Lie/Basic.lean [hunk 2]
```diff
@@ -275,6 +276,46 @@ instance Module.Dual.instLieModule : LieModule R L (M →ₗ[R] R) where
...
+    _ = ∑ i ∈ s, a * f i := by rw [Finset.mul_sum]
+    _ = ∑ i ∈ s, ⁅a, f i⁆ := by rfl
+
+theorem sum_lie_sum {κ : Type*} (s : Finset ι) (t : Finset κ) (f : ι → L) (g : κ → L) :
+    ⁅(∑ i ∈ s, f i), ∑ j ∈ t, g j⁆ = ∑ i ∈ s, ∑ j ∈ t, ⁅f i, g j⁆ := by
+  letI : NonUnitalNonAssocSemiring L := LieRing.instNonUnitalNonAssocSemiring
+  calc
+    ⁅(∑ i ∈ s, f i), ∑ j ∈ t, g j⁆ = (∑ i ∈ s, f i) * ∑ j ∈ t, g j := by rfl
+    _ = ∑ i ∈ s, ∑ j ∈ t, f i * g j := by rw [Finset.sum_mul_sum]
+    _ = ∑ i ∈ s, ∑ j ∈ t, ⁅f i, g j⁆ := by rfl
```
[the remark this answers is not in the document]
Comment (jano-wol) [reply Mathlib/Algebra/Lie/Basic.lean]: Fixed, thx!

**Review by ocfnash — COMMENTED** [review]
I've commented on the design issue; I'll review the proof of `exp_nilpotent_derivation` tomorrow.

File: Mathlib/Algebra/Lie/Derivation/Basic.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Derivation/Basic.lean:398]: (This conversation inspired me to add the missing API for proving uniqueness of `LieAlgebra ℚ L` structures, #22855)

Comment (jano-wol) [reply Mathlib/Algebra/Lie/Derivation/Basic.lean:398]: I understand the concerns now, thank you very much!

**Comment by ocfnash** [comment]
I had a look at the main proof and I think it is true more generally. To be precise I think we should first add the following in the file `Mathlib.RingTheory.Nilpotent.Exp`:
```lean
theorem exp_mul_of_derivation (R B : Type*) [CommRing R] [NonUnitalNonAssocRing B] [Module R B]
    [Module ℚ B] [Algebra ℚ R] [IsScalarTower ℚ R B]
    (D : B →ₗ[R] B) (h_der : ∀ x y, D (x * y) = (D x) * y + x * D y)
    (h_nil : IsNilpotent D) (x y : B) :
    exp D (x * y) = (exp D x) * (exp D y) := by
  sorry
```

**Comment by ocfnash** [comment]
I had a few moments over lunch so I've sketched the above idea in Lean.

Working in `Mathlib.RingTheory.Nilpotent.Exp`, if you add the imports
```lean
import Mathlib.Algebra.Algebra.Basic
import Mathlib.RingTheory.TensorProduct.Basic
```
then the idea is as follows:
```lean
theorem exp_mul_of_derivation (R B : Type*) [CommRing R] [NonUnitalNonAssocRing B]
    [Module R B] [SMulCommClass R B B] [IsScalarTower R B B]
    [Module ℚ B] [Algebra ℚ R] [IsScalarTower ℚ R B]
    (D : B →ₗ[R] B) (h_der : ∀ x y, D (x * y) = (D x) * y + x * D y)
    (h_nil : IsNilpotent D) (x y : B) :
    exp D (x * y) = (exp D x) * (exp D y) := by
  let DL : Module.End R (B ⊗[R] B) := D.lTensor B
  let DR : Module.End R (B ⊗[R] B) := D.rTensor B
  have h_nilL : IsNilpotent DL := sorry
  have h_nilR : IsNilpotent DR := sorry
  have h_comm : Commute DL DR := by ext; simp [DL, DR]
  let m : B ⊗[R] B →ₗ[R] B := TensorProduct.lift <| LinearMap.mul R B
  have hm (x y : B) : m (x ⊗ₜ[R] y) = x * y := rfl
  have h₁ : exp D (x * y) = m (exp (DL + DR) (x ⊗ₜ[R] y)) := by
    sorry
  have h₂ : (exp D).lTensor B = exp DL := sorry
  have h₃ : (exp D).rTensor B = exp DR := sorry
  rw [h₁, exp_add_of_commute h_comm h_nilL h_nilR, ← h₂, ← h₃]
  simp [hm]
```

File: Mathlib/Algebra/Lie/Basic.lean [hunk 3]
```diff
@@ -284,6 +285,30 @@ instance Module.Dual.instLieModule : LieModule R L (M →ₗ[R] R) where
   smul_lie := fun t x m ↦ by ext n; simp
   lie_smul := fun t x m ↦ by ext n; simp
 
+variable (L) in
```
Comment (jano-wol) [inline Mathlib/Algebra/Lie/Basic.lean:288]: These identities are no longer used in the PR, but we can probably still keep them.

**Review by ocfnash — COMMENTED** [review]
A few small suggestions. I think this will probably be ready to go after these.

File: Mathlib/Algebra/Lie/Derivation/Basic.lean [hunk 4]
```diff
@@ -381,4 +385,48 @@ protected lemma leibniz_lie (x : L) (D₁ D₂ : LieDerivation R L L) :
...
+    right_inv := by
+      have h₁ : Commute D.toLinearMap (-(D.toLinearMap)) := Commute.neg_right rfl
+      have h₂ : IsNilpotent (-(D.toLinearMap)) := IsNilpotent.neg h
+      have h₃ := IsNilpotent.exp_add_of_commute h₁ h h₂
+      have s₁ (l : L) : ((IsNilpotent.exp ((D.toLinearMap))) *
+          (IsNilpotent.exp (-(D.toLinearMap)))) l = l := by
+        rw [h₃.symm, add_neg_cancel, IsNilpotent.exp_zero_eq_one]
+        exact rfl
+      exact s₁
+}
```
[the remark this answers is not in the document]
Comment (jano-wol) [reply Mathlib/Algebra/Lie/Derivation/Basic.lean]: I completely agree, thanks for the improvement!

**Comment by ocfnash** [comment]
Thanks!

bors merge
